US04326078
630 g o-chloronitrobenzene, 615 g water and 185 g sodium hydroxide (corresponding to a 23.1 wt. % aqueous solution), 0.9 g naphthalenediol-1,4, 535 g n-butanol and 1.0 g palladium on alumina (5% Pd) (the quantitative ratio of palladium metal to o-chloronitrobenzene used being 0.00008:1) are hydrogenated at a hydrogen pressure of 6 bars and at 55° to 65° C. for 4 hours and worked up as described in Example 1. 396 g pure 2,2'-dichlorohydrazobenzene of a purity of better than 98% is obtained in a yield of 78% of theory. In addition, 37 g o-chloroaniline is obtained which after the n-butanol has been drawn off is distillable under vacuum and thus may be recovered pure. When the distillation residue is mixed with 65 g n-butanol of 60° C., a second fraction of 61 g 2,2'-dichlorohydrazobenzene of a purity of from 97 to 98% crystallizes out on cooling. The total hydrazobenzene yield thus is 89.8%. In addition, 7.3 wt. % o-chloroaniline is obtained.

reactant | o-chloronitrobenzene | 630 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | water | 615 g | O | H2O
reactant | sodium hydroxide | 185 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on alumina | 1.0 g | [Pd] | Pd
solvent | n-butanol | 535 g | C(CCC)O | C4H10O
product | 2,2'-dichlorohydrazobenzene | 396 g, yield of 78% | ClN(NC1=CC=CC=C1)C1=C(C=CC=C1)Cl | C12H10Cl2N2
